US04216160
N-propionyl-2-(acetylthio)acetamide
Nitrogen was bubbled through 4.0 g. (0.1 mole) of sodium hydroxide in 200 ml. of methanol and to this there was added 7.1 ml. (0.1 mole) of thioacetic acid and then 16.0 g. (0.1 mole) of N-propionyl-2-chloroacetamide. The reaction mixture was stirred at ambient temperature for 2 hours and then stripped in vacuo and filtered. The product was dissolved in boiling water, treated with charcoal, filtered and dried in vacuo. A yield of 6.0 g. of white crystalline product was obtained.

reactant | sodium hydroxide | 0.1 mole | [OH-].[Na+]
reactant | thioacetic acid | 0.1 mole | C(C)(=S)O | C2H4OS
reactant | N-propionyl-2-chloroacetamide | 0.1 mole | C(CC)(=O)NC(CCl)=O | C5H8ClNO2
solvent | methanol | CO | CH4O
product | N-propionyl-2-(acetylthio)acetamide | C(CC)(=O)NC(CSC(C)=O)=O | C7H11NO3S
